US07273877B2
4-(2-Fluoro-4-iodoanilino)-N-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide was reacted with TMS-acetylene in the presence of CuI, (Ph3P)2PdCl2 and TEA in THF/DMF (1:1) as for example 2. The residue resulting from removal of the reaction solvents under reduced pressure was purified by column chromatography on silica gel (10% MeOH/CH2Cl2 as eluant) to give 4-{2-fluoro-4-[(trimethylsilyl)ethynyl]anilino}-N-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide as an off-white solid (72%), used directly in the next step. 1H NMR [(CD3)2SO, 400 MHz] δ 11.45 (br s, 1H), 10.45 (s, 1H), 8.50 (t, J=5.4 Hz, 1H), 7.96 (s, 1H), 7.48 (t, J=8.4 Hz, 1H), 7.42 (dd, J=11.5, 1.8 Hz, 1H), 7.30 (dd, J=8.3, 1.4 Hz, 1H), 5.65 (s, 1H), 4.71 (t, J=5.7 Hz, 1H), 3.49 (q, J=5.9 Hz, 2H), 3.29-3.24 (m, 2H), 0.24 (s, 9H). HRMS (FAB+) calcd C19H23FN3O3Si (MH+) 388.1493, found 388.1488.

reactant | 4-(2-Fluoro-4-iodoanilino)-N-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | FC1=C(NC=2C(=CNC(C2)=O)C(=O)NCCO)C=CC(=C1)I | C14H13FIN3O3
reactant | TMS-acetylene | [Si](C)(C)(C)C#C | C5H10Si
solvent | THF DMF | C1CCOC1.CN(C)C=O
catalyst | CuI | [Cu]I
catalyst | (Ph3P)2PdCl2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-{2-fluoro-4-[(trimethylsilyl)ethynyl]anilino}-N-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 72% | FC1=C(NC=2C(=CNC(C2)=O)C(=O)NCCO)C=CC(=C1)C#C[Si](C)(C)C | C19H22FN3O3Si
